US09328134B2
Acetic anhydride (7.40 mL, 78 mmol, commercially available from Sigma Aldrich) was added to a solution of (3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-ol (1.70 g, 3.91 mmol) in DMSO (12 mL), and the resulting mixture was stirred for 24 h at P. EtOAc was added, and the mixture was washed with water (3×), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give an oil. The oil was purified by silica gel chromatography (0 to 40% EtOAc/hexanes gradient) to give (3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-one as a colorless oil (1.06 g, 62.6% yield). ESI (M+H) 433.1; calc for C27H28O5 432.2.

reactant | Acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | (3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-ol | 3.91 mmol, 1.70 g | C(C1=CC=CC=C1)O[C@@H]1C(O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)O | C27H30O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 12 mL | CS(=O)C | C2H6OS
product | (3S,4R,5R,6S)-3,4,5-tris(benzyloxy)-6-methyltetrahydro-2H-pyran-2-one | 1.06 g, 62.6% yield | C(C1=CC=CC=C1)O[C@@H]1C(O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)=O | C27H28O5
